US07829585B2
2,5-Bis-benzyloxy-benzaldehyde
To an N,N-dimethylformamide (100 mL) solution of 2,5-dihydroxybenzaldehyde (10.0 g, 72.4 mmol) were added sodium hydride (5.79 g, 145 mmol) and benzyl bromide (18.9 mL, 159 mmol) at 0° C., which was stirred at room temperature for 24 hours. Water was added to the reaction solution at 0° C. followed by extraction with ethyl acetate. The organic layer was washed with water and sat. NaCl, followed by drying over anhydrous magnesium sulfate and filtering. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1) to obtain the title compound (17.6 g, 76%) as a white solid.

reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | 2,5-dihydroxybenzaldehyde | 72.4 mmol, 10.0 g | OC1=C(C=O)C=C(C=C1)O | C7H6O3
reactant | sodium hydride | 145 mmol, 5.79 g | [H-].[Na+]
reactant | benzyl bromide | 159 mmol, 18.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Water | O | H2O
product | 2,5-Bis-benzyloxy-benzaldehyde | 17.6 g, 76% | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OCC1=CC=CC=C1 | C21H18O3
